US20010014737A1
g) Methyl (±)-8-hydroxy-3-oxo-2,3,4,5-tetrahydro-1 H-2-benzazepine-4-acetate
Anhydrous aluminum chloride (7.6 g, 57 mmol) was added portionwise to a stirred solution of methyl (±)-8-methoxy-3-oxo-2,3,4,5-tetrahydro-1 H-2-benzazepine-4-acetate (3.0 g, 11 mmol) and ethanethiol (4.2 mL, 57 mmol) in methylene chloride (100 mL) at 0° C. under argon. The resulting mixture was allowed to warm to room temperature and stir overnight, then was concentrated. The residue was triturated with ice-water, and the resulting solid was collected by filtration and dried to give the title compound (2.64 g, 91%) as an off-white solid: MS (ES) m/e 250.2 (M+H)+.

reactant | aluminum chloride | 57 mmol, 7.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methyl (±)-8-methoxy-3-oxo-2,3,4,5-tetrahydro-1 H-2-benzazepine-4-acetate | 11 mmol, 3.0 g | COC1=CC2=C(CC(C(NC2)=O)CC(=O)OC)C=C1 | C14H17NO4
reactant | ethanethiol | 57 mmol, 4.2 mL | C(C)S | C2H6S
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | Methyl (±)-8-hydroxy-3-oxo-2,3,4,5-tetrahydro-1 H-2-benzazepine-4-acetate | 2.64 g, 91% | OC1=CC2=C(CC(C(NC2)=O)CC(=O)OC)C=C1 | C13H15NO4
